US09023847B2
4. Pyrrolidin-1-yl-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using pyrrolidine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 313 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.40 (1H, br. s.) 10.62 (1H, s) 8.07 (1H, d, J=6.83 Hz) 7.88 (1H, d, J=5.27 Hz) 7.39 (1H, d, J=3.51 Hz) 7.29 (1H, d, J=5.47 Hz) 6.72 (1H, d, J=3.32 Hz) 6.70 (1H, d, J=6.64 Hz) 3.42 (1H, br. s.) 2.47 (4H, dt, J=3.66, 1.78 Hz) 1.75 (4H, br. s.)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | Pyrrolidin-1-yl-[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophen-2-yl]-methanone | N1(CCCC1)C(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C16H16N4OS
